US08871756B2
N-{[3-(Aminomethyl)oxetan-3-yl]methyl}-2-chloro-6-methylquinazolin-4-amine
To a mixture of oxetane-3,3-diyldimethanamine (1.16 g, 10.0 mmol) and triethylamine (1.4 mL, 10 mol) in dichloromethane (15 mL) was added dropwise of a solution of 2,4-dichloro-6-methylquinazoline (500 mg, 2.36 mmol) in dichloromethane (5 mL). After being stirred at room temperature overnight, the resulting mixture was diluted with water (50 mL), and extracted with dichloromethane. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated in vacuo. The residue was purified by flash column chromatography (eluting with 10% methanol in dichloromethane) to afford 300 mg of the desired product as a white solid.

reactant | oxetane-3,3-diyldimethanamine | 10.0 mmol, 1.16 g | O1CC(C1)(CN)CN | C5H12N2O
reactant | triethylamine | 10 mol, 1.4 mL | C(C)N(CC)CC | C6H15N
reactant | 2,4-dichloro-6-methylquinazoline | 2.36 mmol, 500 mg | ClC1=NC2=CC=C(C=C2C(=N1)Cl)C | C9H6Cl2N2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | N-{[3-(Aminomethyl)oxetan-3-yl]methyl}-2-chloro-6-methylquinazolin-4-amine | 300 mg | NCC1(COC1)CNC1=NC(=NC2=CC=C(C=C12)C)Cl | C14H17ClN4O
